US07666868B2
(E)-N-(Tetrahydro-pyran-2-yloxy)-3-[1-(4-trimethylsilanylethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylamide
Under nitrogen a microwave vial is charged with (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (5.00 mmol), Trimethylsilylacetylene (6.00 mmol), CuI (0.50 mmol), bis(triphenylphosphine)palladium(II)chloride (0.25 mmol), triethylamine (10.0 mmol) and THF (8 ml). The reaction mixture is heated in a Personal Chemistry Microwave oven at 100° C. for 3600 seconds. Methanol is added to the reaction mixture and the solution is filtered over alumina (10 g, neutral, activity II-III) using MeOH as eluent. After evaporation of the solvent the crude product is purified by prep. HPLC yielding the title compound as yellow powder (2.29 mmol). Deprotection

reactant | (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 5.00 mmol | IC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C18H19IN2O5S
reactant | Trimethylsilylacetylene | 6.00 mmol | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 10.0 mmol | C(C)N(CC)CC | C6H15N
reactant | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | CuI | 0.50 mmol | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.25 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | Methanol | CO | CH4O
product | (E)-N-(Tetrahydro-pyran-2-yloxy)-3-[1-(4-trimethylsilanylethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylamide | 2.29 mmol | O1C(CCCC1)ONC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C23H28N2O5SSi
